US07582658B2
[1-(Azulen-1-yl)ethyl]-[3-(6-phenylpyridin-2-yl)propyl]amine hydrochloride
Dehydrated methylene chloride (2 mL) was added with 3-(6-phenylpyridin-2-yl)propane aldehyde (52.5 mg), [1-(azulen-1-yl)ethyl]amine (63.3 mg), and sodium triacetoxyborohydride (158.9 mg, Aldrich), and stirred at room temperature for 72 hours. The reaction mixture was added with 2 N sodium hydroxide, and extracted with chloroform. The organic layer was dried over sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography (chloroform:methanol=15:1) to obtain 63.2 mg of the title compound in the free form. This compound was dissolved in chloroform, and added with 0.1 N solution of hydrochloric acid in methanol (1.7 mL), and the solvent was evaporated under reduced pressure to obtain 69.3 mg of the title compound.

reactant | 3-(6-phenylpyridin-2-yl)propane aldehyde | 52.5 mg | C1(=CC=CC=C1)C1=CC=CC(=N1)CCC=O | C14H13NO
reactant | [1-(azulen-1-yl)ethyl]amine | 63.3 mg | C1(=CC=C2C=CC=CC=C12)C(C)N | C12H13N
reactant | sodium triacetoxyborohydride | 158.9 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
reactant | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | [1-(Azulen-1-yl)ethyl]-[3-(6-phenylpyridin-2-yl)propyl]amine hydrochloride | 63.2 mg | Cl.C1(=CC=C2C=CC=CC=C12)C(C)NCCCC1=NC(=CC=C1)C1=CC=CC=C1 | InChI=1S/C26H26N2.ClH/c1-20(24-18-17-21-10-4-3-7-15-25(21)24)27-19-9-14-23-13-8-16-26(28-23)22-11-5-2-6-12-22;/h2-8,10-13,15-18,20,27H,9,14,19H2,1H3;1H
